US08486967B2
a) tert-Butyl 4-bromo-6-methylbenzo[d]thiazol-2-ylcarbamate
To a suspension of 4-bromo-6-methylbenzo[d]thiazol-2-amine (1.0 g, 4.32 mmol) in dichloromethane (30 mL) was added di-tert-butyl dicarbonate (1.0 g, 4.75 mmol) followed by 4-dimethylaminopyridine (0.6 g, 4.75 mmol) and the mixture stirred for 1 hour. The reaction was diluted with dichloromethane, Amberlite® IR120 was added, the mixture was filtered through glass wool and concentrated to give the title compound as an orange powder (1.3 g, 89%).

reactant | 4-bromo-6-methylbenzo[d]thiazol-2-amine | 4.32 mmol, 1.0 g | BrC1=CC(=CC2=C1N=C(S2)N)C | C8H7BrN2S
reactant | di-tert-butyl dicarbonate | 4.75 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.75 mmol, 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 4-bromo-6-methylbenzo[d]thiazol-2-ylcarbamate | 1.3 g, 89% | BrC1=CC(=CC2=C1N=C(S2)NC(OC(C)(C)C)=O)C | C13H15BrN2O2S
